US05629325
51d. 5-phenyl-3-(2-(S)-pyrrolidinylmethoxy)pyridine
The 5-phenyl-3-(1-tosyl-2-(S)-pyrrolidinylmethoxy)pyridine from the previous step was dissolved in HBr/HOAc, and the reaction was stirred at room temperature for 16 hours and at 40° C. for 4 hours. The volatiles were removed under vacuum, and the residue was chromatographed on a silica gel column, eluting with chloroform/methanol 10/1.5 to afford the title compound (57 mg). MS (DCI/NH3) m/z 255 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 1.54-2.12 (m, 5H), 2.95-3.13 (m, 2H), 3.54-3.66 (m, 1H), 3.94-4.08 (m, 2H), 7.36-7.52 (m, 4H), 7.54-7.62 (m, 2H), 8.29 (d, J=3, 1H), 8.46 (d, J=2, 1H).

reactant | 5-phenyl-3-(1-tosyl-2-(S)-pyrrolidinylmethoxy)pyridine | C1(=CC=CC=C1)C=1C=C(C=NC1)OC[C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C)C=C1 | C23H24N2O3S
solvent | HBr HOAc | Br.CC(=O)O
product | 5-phenyl-3-(2-(S)-pyrrolidinylmethoxy)pyridine | 57 mg | C1(=CC=CC=C1)C=1C=C(C=NC1)OC[C@H]1NCCC1 | C16H18N2O
